US06831080B2
Preparation of (±)-N-[1-(2-Fluoro-5-morpholin-4-yl-phenyl)ethyl]-3-(2-fluoro-phenyl)acrylamide
A mixture of 2-fluoro-cinnamic acid (83 mg), 1-(2-fluoro-5-morpholin-4-yl-phenyl)ethylamine, Preparation 25(112 mg), DMAP (61 mg), EDC.HCl (190 mg), and Et3N (202 mg) in CH2Cl2 (4 mL) was stirred for 16 hours. The crude product was purified by flash chromatography over silica gel (elution with 50% ethyl acetate in hexane) to give 150 mg of the title compound as a solid.

reactant | 2-fluoro-cinnamic acid | 83 mg | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | 1-(2-fluoro-5-morpholin-4-yl-phenyl)ethylamine | FC1=C(C=C(C=C1)N1CCOCC1)C(C)N | C12H17FN2O
reactant | EDC.HCl | 190 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 202 mg | CCN(CC)CC | C6H15N
catalyst | DMAP | 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-N-[1-(2-Fluoro-5-morpholin-4-yl-phenyl)ethyl]-3-(2-fluoro-phenyl)acrylamide | 150 mg | FC1=C(C=C(C=C1)N1CCOCC1)C(C)NC(C=CC1=C(C=CC=C1)F)=O | C21H22F2N2O2
